US08859571B2
To a mixture of 4-fluoro-N-methyl-3-nitrobenzenesulfonamide (1.6 g, 6.83 mmol) in THF (50 mL) under nitrogen, Pd/C (0.600 g) was added. The flask was then evacuated and recharged with hydrogen. The resulting mixture was allowed to stir under a hydrogen atmosphere overnight at 50° C. The mixture was then filtered and concentrated to afford 3-amino-4-fluoro-N-methylbenzenesulfonamide (1.25 g, 89%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 7.26 (q, J=4.85 Hz, 1H), 7.13-7.22 (m, 2H), 6.90 (ddd, J=2.38, 4.27, 8.41 Hz, 1H), 5.63 (s, 2H), 2.40 (d, J=5.02 Hz, 3H); MS (m/z) 205.1 (M+H+)

reactant | 4-fluoro-N-methyl-3-nitrobenzenesulfonamide | 6.83 mmol, 1.6 g | FC1=C(C=C(C=C1)S(=O)(=O)NC)[N+](=O)[O-] | C7H7FN2O4S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.600 g | [Pd] | Pd
product | 3-amino-4-fluoro-N-methylbenzenesulfonamide | 1.25 g, 89% | NC=1C=C(C=CC1F)S(=O)(=O)NC | C7H9FN2O2S
